US07605289B2
A mixture of methyl 4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzoate (6.0 g, 24.2 mmol) and KOH (2.72 g, 48.4 mmol) in 1,4-dioxane (100 mL) and H2O (50 mL) was refluxed for 2 h. The reaction mixture was cooled to room temperature, and 1,4-dioxane evaporated in vacuo. The aqueous residue was acidified with 2N HCl and extracted with CH2Cl2. The extracts were washed with brine and dried. Flash chromatography of the residue, using 3:7 EtOAc-Hexane, gave 4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzoic acid (4.93 g). 1H NMR (CDCl3) δ 11.0(br, 1 H), 7.95(d, J=6.8 Hz, 2 H), 7.71(d, J=6.8 Hz, 2 H), 6.73 (s, 1 H), 1.71(s, 3H). MS 235.0 (M+H+).

reactant | methyl 4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzoate | 24.2 mmol, 6.0 g | FC(C(C)(O)C1=CC=C(C(=O)OC)C=C1)(F)F | C11H11F3O3
reactant | KOH | 48.4 mmol, 2.72 g | [OH-].[K+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 50 mL | O | H2O
product | 4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzoic acid | 4.93 g | FC(C(C)(O)C1=CC=C(C(=O)O)C=C1)(F)F | C10H9F3O3
